US05538940
Preparation of methyl (E)-2-{2-[2-(4-fluorophenyl)-4-thiazolyl]ethyl}-β-methoxycinnamate (Compound No. 1a.347 in Table 1a).
3 g (7.6 mmol) of methyl 2-{2-[2-(4-fluorophenyl)-4-thiazolyl]-(Z)-ethenyl}-(E)-β-methoxycinnamate in 100 ml of methanol are hydrogenated in the presence of 0.2 g of Pd/C (10%) under a gage pressure of 0.05 bar of hydrogen and at 20°-25° C. until hydrogen uptake ceases (1 h). The mixture is then filtered and concentrated.

reactant | methyl 2-{2-[2-(4-fluorophenyl)-4-thiazolyl]-(Z)-ethenyl}-(E)-β-methoxycinnamate | 7.6 mmol, 3 g | FC1=CC=C(C=C1)C=1SC=C(N1)\C=C/C1=C(\C(=C/C(=O)OC)\OC)C=CC=C1 | C22H18FNO3S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 ml | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | methyl (E)-2-{2-[2-(4-fluorophenyl)-4-thiazolyl]ethyl}-β-methoxycinnamate | FC1=CC=C(C=C1)C=1SC=C(N1)CCC1=C(\C(=C/C(=O)OC)\OC)C=CC=C1 | C22H20FNO3S
